Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
partial SBO
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
The pt is a ___ man w/ Crohn's Dz s/p small bowel resections 
and recent development of fistulizing disease s/p fistulotomy, 
drainage of abscess, and ___ placement (___), p/w 
abdominal pain, N/V. The pt describes developing RLQ abdominal 
pain w/ nausea and vomiting while on a trip to the ___ 
yesterday with his wife. He also noted shaking chills and 
sweats, but did not take his temperature at home. He called Drs. 
___ / ___, who recommended being seen at ___ or 
local hospital for care. He was at OSH and a CT-scan reportedly 
showed a ___ SBO as well as a new ___ abscess. He has 
never had any ___ abscesses before, but has had ___ 
fistulas and recent surgical care by Dr. ___ for 
these. He received Levo and Flagyl IV and was transferred here 
for further care.  
.  
He currently feels well without abdominal pain. He feels 
dehydrated as he has not been able to eat or drink, but now 
feels very hungry. No diarrhea, no melena or hematochezia, no 
hematemesis. No fevers or chills today. Does note ___ pain 
after rectal exam in the ED. He was recently hospitalized for a 
Crohn's exacerbation w/ complete SBO, and then again for melena, 
at which point EGD showed duodenal bleeding from Crohn's disease 
changes. He was started on ___ after the admission for SBO, but 
this was stopped and changed to Remicade after the 
hospitalization for melena. He has received 1 cycle of Remicade 
and is due for his next cycle on ___.  
.  
In the ED: VS - Temp 97.6F, BP 122/60, HR 93, R 18. Rectal exam 
was Guaiac negative, w/ a palpable fullness in the left 
___ area, TTP. He received IVF 1L NS and IV Flagyl. They 
spoke w/ GI, who recommended admission, holding steroids, IV 
antibiotics, clear liquid diet, and they will review his CT-scan 
in the morning and compare with his old CT-scans.  

 
Past Medical History:
-Crohn's disease -dx in ___ and was on Remicaid in the past  
___. Had small bowel resection x2 and stricturoplasty in the  
past as well. He then had fistulas repaired recently.  
-B12 deficiency  
 
Social History:
___
Family History:
father- irritable bowel disease
Father's family has heart disease
Mother's family had lung cancer, breast cancer
 
Physical Exam:
VS - Temp 96.7F, BP 112/82, HR 66, R 18, SaO2 100% RA  
General - WA young man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRL/EOMI, anicteric, dry MM, OP clear  
Neck - supple, no LAD or thyromegaly  
Lungs - CTA bilat, no r/rh/wh  
Heart - RRR, nl S1-S2, no MRG  
Abdomen - decreased BS, soft/ND, +mild TTP hypogastric, no r/g, 
no palpable masses or HSM  
Rectal - deferred  
Extrem - WWP, no c/c/e, 2+ DPs  
Neuro - non-focal  

 
Pertinent Results:
___ 02:34AM BLOOD ALT-21 AST-14 LD(LDH)-116 AlkPhos-37* 
TotBili-0.4
___ 02:34AM BLOOD Albumin-3.3* Calcium-8.8 Phos-4.7* Mg-2.2
___ 02:34AM BLOOD Glucose-97 UreaN-14 Creat-0.8 Na-142 
K-4.1 Cl-107 HCO3-30 AnGap-9
___ 02:34AM BLOOD ___ PTT-28.1 ___
___ 02:34AM BLOOD WBC-8.8 RBC-3.43* Hgb-9.6* Hct-28.9* 
MCV-84 MCH-27.9 MCHC-33.2 RDW-16.8* Plt ___
___ 02:34AM BLOOD Neuts-64.4 ___ Monos-9.1 Eos-0.6 
Baso-0.4
___ 02:34AM BLOOD Plt ___

CT abdomen/pelvis from outside hospital - to be uploaded into 
our computer, PRELIM read per Dr. ___ - there is partial SBO 
with contrast emptying into the colon.  There is a stricture vs. 
active Crohn's disease in mid-jejunal region which is unchanged 
from previous CT scan. Also there is ___ in place in rectum 
and ___ fistula.  There is no evidence of perirectal 
abscess or ___ fistula.
 
Brief Hospital Course:
Crohn's Disease - Complicated hx including small bowel 
resections w/ multiple SBOs, fistulizing dz s/p fistulotomy. 
Recent complete SBO ___ Crohn's exacerbation, then recent melena 
___ duodenal bleeding. Recent medication changes including 
initiation and then stopping of ___ and now recent initiation 
of Remicade s/p cycle 1. Currently also being tapered down on 
his daily steroids.  Presents with partial SBO and ___ 
fistula. no evidence of abscess on CT as per our radiologist.  
Patient was placed on clear liquid diet.  Did not have any 
abdominal pain, nausea, or vomiting. Patient was passing gas as 
well as stool. No gross blood per rectum.  Patient was seen by 
general surgery as well as gastroenterology.  Decision was made 
to continue to treat medically with Remicade as only on second 
infusion and see if that improves area of jejunum.  If not then 
patient may require surgery in the future.  ___ fistula 
appears to be stable without evidence of abscess.  Patient 
should continue steroid taper as previously prescribed and 
follow-up with his gastroenterologist within 2 weeks. 

 
Medications on Admission:
Prednisone 45mg PO daily  
Mesalamine 2000mg PO BID  
Multivitamin PO BID  
Zolpidem 5mg PO QHS PRN  
Hydromorphone 4mg PO Q6H PRN  
Pantoprazole 40mg PO Q12H  
Vitamin B-12 1,000 mcg/mL injection  
Levo/Flagyl  

 
Discharge Medications:
1. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
2. Mesalamine 400 mg Tablet, Delayed Release (E.C.) Sig: Five 
(5) Tablet, Delayed Release (E.C.) PO BID (2 times a day).  
3. Multivitamin,Tx-Minerals     Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
4. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
6. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  
7. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO once a day for 
1 weeks: please follow previous prednisone taper from discharge 
on ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Crohn's disease
partial SBO
___ fistula
 
Discharge Condition:
Afebrile, vital signs stable, tolerating clear liquid, passing 
gas and stool 

 
Discharge Instructions:
You were admitted to the hospital after transfer from the 
___ with partial small bowel obstruction, 
abdominal pain, nausea and vomiting.  Your abdominal pain, 
nausea and vomiting subsided.  You were seen by our 
gastroenterologist, surgeons, and internist.  Your small bowel 
obstruction is partial and your perirectal fistula appears on 
CAT scan to have less inflammation than it did previously.  You 
should continue to drink only clear liquids tonight, and you can 
begin back slowly on a regular low-residue diet tomorrow keeping 
in mind that you have a significant narrowing of your small 
intestine and you should eat softer foods.  You should also 
continue with your daily ___ as you have been doing. You 
are already scheduled for Remicade infusion tomorrow.  You 
should follow-up with your gastroenterologist regularly as you 
have been doing.  Your partial small bowel obstruction may be 
secondary to active Crohn's disease or may be due to a 
stricture. The plan currently is to try to treat with Remicade 
and see if you improve, if there is continued vomiting that 
worsens or worsening abdominal pain this may indicate a complete 
bowel obstruction which is a surgical emergency and you should 
return to the emergency room.  You should also return if you 
experience any chills, or fevers > 100.4, chest pain, or 
shortness of breath.  It has been a pleasure taking care of you 
at ___.
 
Followup Instructions:
___